US07915250B2
A solution of 3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoic acid (200 mg, 0.51 mmol), prepared using procedures similar to those in U.S. Pat. No. 7,019,033, PyBOP (256 mg, 0.51 mmol), commercially available tert-butyl azetidin-3-ylcarbamate (131 mg, 0.77 mmol) and N,N-diisopropylethylamine (180 μL, 1.02 mmol) in dimethylformamide (3 mL) was stirred at room temperature for 15 hours. The reaction mixture was partitioned between 5% aqueous lithium chloride and ethyl acetate. The organic portion was washed with 20% aqueous citric acid, saturated aqueous sodium bicarbonate, brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford a brown residue which was purified by silica gel column chromatography eluting with 30% ethyl acetate in hexanes to afford 1,1-dimethylethyl [1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-yl]carbamate (225 mg, 80% yield) as a colorless oil. 1H NMR (400 MHz, DMSO): 8.56 (s, 1H), 7.60-7.55 (m, 2H), 7.38 (d, 1H), 7.30-7.26 (m, 1H), 7.20-7.13 (m, 1H), 6.71-6.66 (m, 1H), 4.37-4.20 (m, 2H), 4.18-4.06 (m, 1H), 3.98-3.93 (m, 1H), 3.82-3.75 (m, 1H), 1.37 (s, 9H). MS (EI) C21H21N3O3F3I: 548 (MH+).

reactant | 3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoic acid | 0.51 mmol, 200 mg | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)I)F | C13H7F3INO2
reactant | PyBOP | 0.51 mmol, 256 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | tert-butyl azetidin-3-ylcarbamate | 0.77 mmol, 131 mg | N1CC(C1)NC(OC(C)(C)C)=O | C8H16N2O2
reactant | N,N-diisopropylethylamine | 1.02 mmol, 180 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 1,1-dimethylethyl [1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-yl]carbamate | 225 mg, 80% yield | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)NC(OC(C)(C)C)=O)NC1=C(C=C(C=C1)I)F | C21H21F3IN3O3
